US08580957B2
A flask was charged with 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see intermediate 55) (250 mg, 0.585 mmol), 2-bromopyrimidine (186 mg, 1.169 mmol), sodium tert-butoxide (112 mg, 1.169 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (46.0 mg, 0.117 mmol) and then tris(dibenzylideneacetone)dipalladium(0) (53.5 mg, 0.058 mmol) then filled with 1,4-dioxane (5 mL) and the resulting mixture was stirred at 110° C. for 16 h then cooled to room temperature and partitioned between EtOAc (25 mL) and water (25 mL). The layers were separated and the aqueous phase was extracted with EtOAc (25 mL). The combined organic phases were washed with brine (50 mL), dried over Na2SO4 and concentrated in vacuovacuo. Purification of this residue on SP4 using a 50 G silica cartridge (gradient:1 to 5% MeOH in DCM) gave 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrimidinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (68.5 mg, 0.122 mmol, 20.85% yield) as an orange oil.

reactant | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)N)C | C23H33N5O3
reactant | 2-bromopyrimidine | 1.169 mmol, 186 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium tert-butoxide | 1.169 mmol, 112 mg | CC(C)([O-])C.[Na+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.117 mmol, 46.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.058 mmol, 53.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrimidinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | 0.122 mmol, 68.5 mg, 20.85% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC1=NC=CC=N1)C | C27H35N7O3
